US07534797B2
7-Phenyl-5-(2-phenylquinolin-7-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
Following the general procedure for the Suzuki coupling, 5-iodo-7-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (27 mg, 0.080 mmol) was reacted with 2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline (26.5 mg, 0.080 mmol), Na2CO3 (22 mg, 0.21 mmol) and Pd(PPh3)4 (6 mg, 0.005 mmol) in DMF (2.5 mL)/water (0.5 mL). The crude material was purified by chromatography on an SCX column (1 g/6 mL barrel) followed by column chromatography on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with CH2Cl2 (1-12)→1% MeOH in CH2Cl2 (13-33)→2% MeOH in CH2Cl2 (34-40)], yielding the title compound as an off-white solid. 1H NMR (CDCl3, 400 MHz): δ=5.31 (brs, 2H), 7.38-7.42 (m, 1H), 7.43 (s, 1H), 7.47-7.52 (m, 1H), 7.53-7.59 (m, 4H), 7.75 (dd, J=2.0, 8.4 Hz, 1H), 7.75-7.79 (m, 2H), 7.94 (d, J=8.4 Hz, 1H), 7.97 (d, J=8.0 Hz, 1H), 8.18-8.22 (m, 2H), 8.26 (d, J=8.4 Hz, 1H), 8.35-8.37 (m, 1H), 8.44 (s, 1H). MS (ES+): m/z 414.0 (25) [MH+]. HPLC: tR=3.4 min (OpenLynx, polar—5 min).

reactant | 5-iodo-7-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 0.080 mmol, 27 mg | IC1=CN(C=2N=CN=C(C21)N)C2=CC=CC=C2 | C12H9IN4
reactant | 2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline | 0.080 mmol, 26.5 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C21H22BNO2
reactant | Na2CO3 | 0.21 mmol, 22 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 0.5 mL | O | H2O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Phenyl-5-(2-phenylquinolin-7-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C1(=CC=CC=C1)N1C=C(C2=C1N=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C27H19N5
